US06048864
(a) Methyl 3,4-dimethoxy-2-hydroxybenzoate
A solution of diazomethane in diethyl ether (30 ml, 0.25M, 0.0075 mol) was added to a solution of 3,4-dimethoxy-2-hydroxybenzoic acid (1.5 g, 0.0075 mol) in diethyl ether (50 ml) and the reaction stirred at room temperature for 10 minutes. Glacial acetic acid was then added and stirring continued for a further 18 hours. The reaction mixture was concentrated under reduced pressure and the residue partitioned between dichloromethane (40 ml) and aqueous sodium hydrogen carbonate solution (40 ml). The aqueous phase was further extracted with dichloromethane (100 ml), the combined organic extracts dried (MgSO4), filtered and evaporated under reduced pressure to give the subtitle compound as a white crystalline solid (1.5 g, 94%). 1H-NMR (CDCl3): δ=3.82 (9H, m), 6.48 (1H, d), 7.58 (1H, d), 10.84 (1H, s).

reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | 3,4-dimethoxy-2-hydroxybenzoic acid | 0.0075 mol, 1.5 g | COC=1C(=C(C(=O)O)C=CC1OC)O | C9H10O5
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 0.0075 mol, 0.25M, 30 ml | C(C)OCC | C4H10O
product | Methyl 3,4-dimethoxy-2-hydroxybenzoate | 1.5 g, 94% | COC=1C(=C(C(=O)OC)C=CC1OC)O | C10H12O5
